US07067529B2
To a stirred solution of 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (200 mg, 0.53 mmol) in chloroform (6 mL) was added manganese (IV) oxide (536 mg, 5.34 mmol). The reaction mixture was stirred at room temperature for 15 hrs, filtered through a Celite® pad, and washed with chloroform. The filtrate was concentrated in vacuo to afford 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde (200 mg, 99% yield). The crude product was without further purification.

reactant | 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde | 0.53 mmol, 200 mg | C(CCC)OC=1C=C2C(=CNC(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C23H27NO4
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 5.34 mmol, 536 mg | [O-2].[Mn+4].[O-2]
product | 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 200 mg, 99% yield | C(CCC)OC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C23H25NO4
